US06375926B1
Step H 4-[4-[[(4-Methyl)piperazin-1-yl]carbonyl]phenoxy]-1-[4-(benzyloxycarbonyl)benzylaminocarbonyl]-3,3-diethyl-2-azetidinone (Compound 36)
According to the method of Shrenik et al (J. Med. Chem., 35, 3745-3754 (1992)), 4-[4-[[(4-methyl)piperazin-1-yl]carbonyl]phenoxy]-3,3-diethyl-2-azetidinone (160 mg, 0.463 mmol) and 4-(benzyloxycarbonyl)benzylisocyanate (261 mg, 0.98 mmol) gave, following purification by flash column chromatography (MeOH/EtOAc, 1:4), the title compound (171 mg, 60%) as an oil.

reactant | 4-[4-[[(4-methyl)piperazin-1-yl]carbonyl]phenoxy]-3,3-diethyl-2-azetidinone | 0.463 mmol, 160 mg | CN1CCN(CC1)C(=O)C1=CC=C(OC2C(C(N2)=O)(CC)CC)C=C1 | C19H27N3O3
reactant | 4-(benzyloxycarbonyl)benzylisocyanate | 0.98 mmol, 261 mg | C(C1=CC=CC=C1)OC(=O)C1=CC=C(CN=C=O)C=C1 | C16H13NO3
product | 4-[4-[[(4-Methyl)piperazin-1-yl]carbonyl]phenoxy]-1-[4-(benzyloxycarbonyl)benzylaminocarbonyl]-3,3-diethyl-2-azetidinone | CN1CCN(CC1)C(=O)C1=CC=C(OC2C(C(N2C(=O)NCC2=CC=C(C=C2)C(=O)OCC2=CC=CC=C2)=O)(CC)CC)C=C1 | C35H40N4O6
